US07855201B2
Step 2: 2-methoxy-6-methylpyrimidine-4-carbaldehyde
To an cooled solution (−78° C. internal temp) of 0.5 g of methyl 2-methoxy-6-methylpyrimidine-4-carboxylate in 15 mL of toluene and 15 mL of dichloromethane was added 6 mL of 1 M diisobutyl aluminum hydride in toluene. After stirring 10 min the reaction was quenched with 5 mL of water, allowed to warm to room temperature and dried with 5 g of MgSO4. Concentration of the filtrate under reduced pressure gave the product as an resin and was used without further purification: MS (m+1)=153.1 and 171.1 (hydrate).

reactant | methyl 2-methoxy-6-methylpyrimidine-4-carboxylate | 0.5 g | COC1=NC(=CC(=N1)C(=O)OC)C | C8H10N2O3
reactant | diisobutyl aluminum hydride | 1 M, 6 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-methoxy-6-methylpyrimidine-4-carbaldehyde | COC1=NC(=CC(=N1)C=O)C | C7H8N2O2
